US06846819B1
a) 3-(Methylaminomethyl)quinoline
A solution of 3-quinolinecarboxaldehyde (1.5 g,10 mmole), 2.0 M CH3NH2/MeOH (10 mL, 20 mmole), glacial AcOH (0.6 mL, 10 mmole), and NaBH3CN (0.35 g, 11 mmole) in MeOH (20 mL) was stirred at RT overnight, then was concentrated in vacuo. The residue was diluted with 5% NaOH and extracted with CH2Cl2. The combined organic extracts were washed with brine, dried over MgSO4, and concentrated. Flash chromatography on silica gel (10% MeOH/CH2Cl2) gave the title compound (0.83 g, 24%) as a slightly yellow viscous oil: MS (ES) m/e 173 (M+H)+.

reactant | 3-quinolinecarboxaldehyde | 10 mmole, 1.5 g | N1=CC(=CC2=CC=CC=C12)C=O | C10H7NO
reactant | CH3NH2 MeOH | 20 mmole, 2.0 M, 10 mL | CN.CO
reactant | AcOH | 10 mmole, 0.6 mL | CC(=O)O | C2H4O2
reactant | NaBH3CN | 11 mmole, 0.35 g | [BH3-]C#N.[Na+]
solvent | MeOH | 20 mL | CO | CH4O
product | 3-(Methylaminomethyl)quinoline | 0.83 g, 24% | CNCC=1C=NC2=CC=CC=C2C1 | C11H12N2
